* SpiceNetList
* 
* Exported from Simulated01.sch at 24.01.2020 10:59
* 
* EAGLE Version 9.3.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R2 VCAP1 VCAP2 1k 
V_V1 VIN 0 DC 0V AC 1V 
R_R3 VCAP2 VOUT 1k 
C_C2 VCAP2 0 1n 
C_C1 VCAP1 0 100n 
R_R1 VIN VCAP1 1k 
C_C3 VOUT 0 10p 

* --------- simulation ---------
.control
set filetype=ascii
OP
write Simulated01.sch.sim
.endc



.END










