* SpiceNetList
* 
* Exported from Simulated03.sch at 26.01.2020 22:11
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------
.PARAM RATIO=1/10

* --------- devices ---------
R_R1 N_2 VIN-L 0.01 
D_D1 VIN-N VGL DMOD 
D_D4 0 N_3 DMOD 
D_D6 VPREREG VREG DMOD 
C_C2 VREG 0 10u 
C_C1 VIN-L N_4 1u 
V_V1 N_2 VIN-N DC 0V AC 340V SIN(0 340 50hz 0 0) 
R_R2 N_1 VGL 47 
D_D3 0 VIN-N DMOD 
R_R3 0 VREG 1k 
V_VCUR_2 N_1 VPREREG 
V_VCUR_1 N_4 N_3 DC 0V AC 0 
D_D2 N_3 VGL DMOD 
X_D5 0 VPREREG DI_BZT52C9V1LP 

* --------- models ---------

* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* model file: E:/Projects/Elektronik/Arduino/ATtiny/UVTimer/Simulation/AC-Coupled-Supply/DI_BZT52C9V1LP.mdl
*SRC=BZT52C9V1LP;DI_BZT52C9V1LP;Diodes;Zener <=10V; 9.10V  0.250W   Diodes Inc. QFN Zener
*SYM=HZEN
.SUBCKT DI_BZT52C9V1LP  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 7.44
.MODEL DF D ( IS=11.3p RS=31.3 N=1.10
+ CJO=50.3p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=2.26f RS=3.45 N=2.23 )
.ENDS


* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.0001 0.06 0 0.0001 
write Simulated03.sch.sim V(VGL) V(VPREREG) V(VREG) I(V_VCUR_1) I(V_V1) I(V_VCUR_2)
.endc

.END










