* SpiceNetList
* 
* Exported from Simulated01.sch at 24.01.2020 10:59
* 
* EAGLE Version 9.3.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
R_R2 VCAP1 VCAP2 1k 
V_V1 VIN 0 DC 0V AC 1V 
R_R3 VCAP2 VOUT 1k 
C_C2 VCAP2 0 1n 
C_C1 VCAP1 0 100n 
R_R1 VIN VCAP1 1k 
C_C3 VOUT 0 10p 

* --------- simulation ---------
.print DC V(VCAP1) Vp(VCAP1) Vp(VCAP2) V(VCAP2) Vp(VOUT) V(VOUT) I(V_V1)
.print AC V(VCAP1) Vp(VCAP1) Vp(VCAP2) V(VCAP2) Vp(VOUT) V(VOUT) I(V_V1)
.print TRAN V(VCAP1) Vp(VCAP1) Vp(VCAP2) V(VCAP2) Vp(VOUT) V(VOUT) I(V_V1)
.END










